US07098219B2
5-Amino-1-cyclopropyl-6-fluoro-8-methoxy-1,4-dihydro-7-(4′-amino-3′-methylpiperidin-1-yl)-4-oxo-quinoline-3-carboxylic acid
The condensation of 5-amino-1-cyclopropyl-6,7-difluoro-8-methoxy -1,4-dihydro-4-oxo-quinoline-3-carboxylic acid with 4-amino-3-methylpiperidine was carried out in a similar manner as described in example 1, gave the titled product. Yield 50%, m.p 260–62° C., C20H25FN4O4, m/z 405 (M+1).

reactant | 5-amino-1-cyclopropyl-6,7-difluoro-8-methoxy -1,4-dihydro-4-oxo-quinoline-3-carboxylic acid | NC1=C2C(C(=CN(C2=C(C(=C1F)F)OC)C1CC1)C(=O)O)=O | C14H12F2N2O4
reactant | 4-amino-3-methylpiperidine | NC1C(CNCC1)C | C6H14N2
product | 5-Amino-1-cyclopropyl-6-fluoro-8-methoxy-1,4-dihydro-7-(4′-amino-3′-methylpiperidin-1-yl)-4-oxo-quinoline-3-carboxylic acid | Yield 50% | NC1=C2C(C(=CN(C2=C(C(=C1F)N1CC(C(CC1)N)C)OC)C1CC1)C(=O)O)=O | C20H25FN4O4
